US07696223B2
b) {[2,3-Dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 2,3-dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 512 (M+H)+.

reactant | 2,3-dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)Br)CC2=CC=C(C=C2)OC)O | C18H16Br2N2O4
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[2,3-Dibromo-4-hydroxy-1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | BrC1=C(C=2C(=CN=C(C2O)C(=O)NCC(=O)O)N1CC1=CC=C(C=C1)OC)Br | C18H15Br2N3O5
